US07851629B2
3-(1-ethylpiperidin-4-yl)-2-fluorobenzonitrile
To a solution of 3-(1-ethylpiperidin-4-yl)-2-fluorobenzamide (0.46 g, 1.83 mmol) in dry N,N-dimethylformamide (4 ml) was added freshly distilled phosphoryl trichloride (0.42 ml, 4.57 mmol) and the reaction mixture was stirred for 1 h. The solution was poured on to ice and was made basic by addition of aqueous sodium carbonate (10%, 50 ml). Ethyl acetate (50 ml) was added and the phases were separated. The aqueous phase was extracted with ethyl acetate (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. Purification by flash column chromatography (ethyl acetate/methanol, 1:1) gave the title compound: 0.32 g (75%). The amine was converted to the oxalic acid salt and recrystallized from ethanol/diethyl ether: M.p. 156-158° C. MS m/z (relative intensity, 70 eV) 232 (M+, 12), 218 (14), 217 (bp), 147 (10), 134 (13).

reactant | 3-(1-ethylpiperidin-4-yl)-2-fluorobenzamide | 1.83 mmol, 0.46 g | C(C)N1CCC(CC1)C=1C(=C(C(=O)N)C=CC1)F | C14H19FN2O
reactant | phosphoryl trichloride | 4.57 mmol, 0.42 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(1-ethylpiperidin-4-yl)-2-fluorobenzonitrile | C(C)N1CCC(CC1)C=1C(=C(C#N)C=CC1)F | C14H17FN2
